data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,8817,"COC(=O)C12CC(=O)N(CCC3=CC(OC)=C(OC)C=C3)C1=CC1C(C2)OC(C)(C)[O:1]1.FC(F)(F)[C:2]([O:3][H:4])=[O:5]|(1, 4);((4, 3), 2);((2, 5), 5)"
train,pmechdb_split_0,0,8672,"O[P:1](O)O.[Br:2][Br:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8633,"CCOC(=O)NN=C(O)OCC.CCOC(=O)NNC(=O)OCC.COC1=CC(OC)=C2C(=C1)C=C(OCC1=CC=CC=C1)C(C(=O)[O-:1])=C2OC.COC1=CC(OC)=C2C(=C1)C=C([CH2:2][O:3][P+:4](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(Br)=C2OC|(1, 2);((2, 3), 4)"
train,pmechdb_split_0,0,927,"CCCCCNCC1=C(CC=O)C=CC=C1.CCCCC[N:1]1CC2=C(C=CC=C2)C[CH:2]1[OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4699,"CC(C)[O-].CCCCCC1CC[C:1]([H:2])([O:3][Al-]([O]C(C)C)([O]C(C)C)[O+:4]=[C:5](C)C)C(CCC)C1|(3, 1);((1, 2), 5);((5, 4), 4)"
train,pmechdb_split_0,0,3728,"CCOC[CH:1]=[C:2](O)[OH:3].O=S(=O)(O)[O:4][H:5]|(3, 2);((2, 1), 5);((5, 4), 4)"
train,pmechdb_split_0,0,3534,"C1C[N:1]2CCN1CC2.COC1=C(O)C(C=O)=CC=C1.C[C:2](=[O:3])[CH:4]=[CH2:5]|(1, 5);((5, 4), 2);((2, 3), 3)"
train,pmechdb_split_0,0,83,"CCC[CH2:1][Li:2].C[Si](C)(C)[C:3]1([H:4])SCCCS1|((2, 1), 4);((4, 3), 3)"
train,pmechdb_split_0,0,8434,"CC(C)[Si](OCC=[O:1])(C(C)C)C(C)C.CC=CC[B:2]1OC(C(=O)OC(C)C)C(C(=O)OC(C)C)O1|(1, 2)"
train,pmechdb_split_0,0,4606,"CC(=O)[O-].CC[CH:1]([C:2]1=[C:3]([O-:4])OC(C)(C)OC1=O)[NH+:5](C)CC(=O)O|(4, 3);((3, 2), 1);((1, 5), 5)"
train,pmechdb_split_0,0,915,"CN(C)[C:1]([CH:2](C)[H:3])=[O:4].[OH-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,6580,"[Cl][Al-]([Cl])([Cl])[Cl+:1][C:2](CCC1=CC=CC=C1)=[O:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9601,"C1=CC2=C(C=C1)OB(C=C1C3=C(C=CC=C3)[C:1]([O:2][CH3:3])=[O+:4]1)O2.[Cl-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,7544,"C[O:1][CH2:2][F:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3233,"[Li][O+:1](C1=CC(CC(=C)C)CC(C)C1)[Si-:2](C)(C)(C)C|((2, 1), 1)"
train,pmechdb_split_0,0,8934,"CCCC[N+](CCCC)(CCCC)CCCC.CCO[C:1](C)=[O:2].[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7225,"C[C:1]1([OH:2])CC[C:3]([O-:4])=[CH:5]1|(4, 3);((3, 5), 1);((1, 2), 2)"
train,pmechdb_split_0,0,2054,"C=[C+:1]C1=CC=CC=C1.[Br-:2]|(2, 1)"
train,pmechdb_split_0,0,5572,"C1C[CH:1]=[CH:2][C:3](=[O:4])C1.CCO[C:5](=[CH:6]C(C)=O)[O-:7]|(7, 5);((5, 6), 1);((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,4620,"C[NH+]1CCC(C2=CC=CC=C2)([C:1]#[NH+:2])CC1.C[OH:3].O=S(=O)([O-])[O-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4436,"CO[C:1](=[O:2])[CH2-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,827,"CCCN(C)C(C)=[O:1].F[B:2](F)F|(1, 2)"
train,pmechdb_split_0,0,1667,"CC1=CC=C(CC(C2=CC=CC=C2)[O-:1])C=C1.N#CC(O)(C1=CC=CC=C1)C(CC1=CC=CC=C1)(C1=CC=CC=C1)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7396,"CC1(C)C=CC(=O)C(C)(C[CH:1]2C(C)([Si](C)(C)C)[OH+:2]2)C1.O=C([O-])C1=CC=CC(Cl)=C1|((1, 2), 2)"
train,pmechdb_split_0,0,2224,"O=S(=O)(O)[O:1][H:2].OCC(O)C(O)C(O)C(O)C=[O:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7991,"C1=CC=CC=C1.C1=CC=[N:1]C=C1.CC(=O)C[CH:2]([H:3])[C:4](C)=[NH+:5]C1=CC2=C(C=C1)C(I)=C(C1=CC=CC=C1)O2.CC1=CC=C(S(=O)(=O)[O-])C=C1.O|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,9964,"C[C+:1]=O.O=S(=O)(O)C1=C[CH:2]=[CH:3]O1|((2, 3), 1)"
train,pmechdb_split_0,0,6457,"CC1(C)C2CCC1(CS(=O)(=O)[O-])C(=O)C2.CC1C(=[NH+]C(CC2=CC=CC=C2)C(=O)O)CCC2(C)C(=O)CCCC12[O-:1].O.[NH3+]C(CC1=CC=CC=C1)C(=O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3794,"C=CC1C=CCC(CC(C)C[C+:1](CC(C=CCC(O[Si](C)(C)C(C)(C)C)C(C=CC2CC(C)=CCO2)O[Si](C)(C)C(C)(C)C)O[B-]2(C3=CC(C(F)(F)F)=CC(C(F)(F)F)=C3)OC(=O)C(C(OC(=O)C3=C(OC(C)C)C=CC=C3OC(C)C)C(=O)O)O2)[CH2:2][Si-:3](C)(C)(C)[O+]=C(O)CC)O1.CCC#N|((3, 2), 1)"
train,pmechdb_split_0,0,4825,"C1=CC=C(C2=NCC[N+:1]([H:2])=C2C2=CC=CC=C2)C=C1.CCO.NCCN.O.[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8814,"C[C:1](CCC(=O)O)=[O:2].[H:3][BH3-:4]|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,7931,"CCCCCOCC1C(O)C[CH:1]([N+:2]2=CC(C)=CC=C2)[O:3]1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2179,"C1=CC=NC=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.O.OC1CCCC[C:1]1=[O+:2]CC[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8816,"CS(=O)(=O)O[Si-:1](C)(C)(C)[CH:2]=[C+:3]C|((1, 2), 3)"
train,pmechdb_split_0,0,1620,"C[C:1](OC(=O)CCC=O)=[O:2].C[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4234,"C=CCS(=O)C1=CC=C(C)C=C1.CCOC(=O)CBr.COC1=C([Si:1](C)(C)C)C(OS(=O)(=O)C(F)(F)F)=CC=C1.[F-:2]|(2, 1)"
train,pmechdb_split_0,0,8492,"C1C[N:1]2CCN1CC2.N#CC1=CC=C([CH2:2][Br:3])C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2510,"CO[C:1](OC)([NH3+:2])[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6759,"CCCC=[O:1].[BH4-].[Na+:2]|(1, 2)"
train,pmechdb_split_0,0,804,"CC(C)=C[CH2:1][OH2+:2].CC1=CC=C(S(=O)(=O)[O-])C=C1.CCCCCC1=CC(O)=C(CC=C(C)C)C(O)=C1.CCCCCC1=CC(O)=CC(O)=C1.O|((1, 2), 2)"
train,pmechdb_split_0,0,5664,"CC(C)C(=O)C(C1=CC=CC=C1)C(CC1=CC=CC=C1)(C(C)C)[O-:1].[H:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1643,"CC(OP(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)[O:1][H:2])(C(=O)C1CCCC2=C(C=CC=C2)C1=O)C1CCCCC1.[OH-:3]|(3, 2);((2, 1), 1)"
